US06063806
1-Acetyl-5-bromo-4,6-dimethyl-7-nitroindoline (30 g) was dissolved in a mixture (600 ml) of CHCl3 /MeOH=1/1 and 5% Pd-C (5.0 g) was added, which was followed by catalytic hydrogenation at 35° C. The precipitate was collected by filtration together with Pd-C, and dissolved in CHCl3 (300 ml). The mixture was washed with saturated aqueous solution of sodium hydrogencarbonate. The solvent was evaporated under reduced pressure from the filtrate and CHCl3 (300 ml) was added. The mixture was washed with saturated aqueous solution of sodium hydrogencarbonate and combined with the layer of above-mentioned CHCl3. The combined CHCl3 layer was washed with saturated brine and dried over anhydrous sodium sulfate. CHCl3 was evaporated under reduced pressure and the residue was dissolved in CHCl3 (150 ml). Thereto were successively added at 10° C. pivaloyl chloride (11.7 g) and Et3N (10.8 g). The mixture was stirred at room temperature for 1 hr and CHCl3 (200 ml) was added. The mixture was washed successively with 5% aqueous citric acid and water, and dried over anhydrous sodium sulfate. CHCl3 was evaporated under reduced pressure and the obtained crude residue was washed with cool Et2O (100 ml) to give 21 g of N-(1-acetyl-4,6-dimethylindolin-7-yl)-2,2-dimethylpropanamide.

reactant | 1-Acetyl-5-bromo-4,6-dimethyl-7-nitroindoline | 30 g | C(C)(=O)N1CCC2=C(C(=C(C(=C12)[N+](=O)[O-])C)Br)C | C12H13BrN2O3
reactant | CHCl3 MeOH | 600 ml | C(Cl)(Cl)Cl.CO
catalyst | Pd-C | 5.0 g | [Pd] | Pd
product | N-(1-acetyl-4,6-dimethylindolin-7-yl)-2,2-dimethylpropanamide | 21 g | C(C)(=O)N1CCC2=C(C=C(C(=C12)NC(C(C)(C)C)=O)C)C | C17H24N2O2
